US04143068
203 g (1 mol) of terephthalic acid dichloride, 97 g (1.94 mol) of sodium cyanide and 5.4 g of copper(I) cyanide were mixed in a reaction vessel, whilst stirring, and the mixture was slowly heated to 220° C. A distinctly exothermic reaction took place. After 90 minutes at 276° C., the mixture was allowed to cool and 400 ml of acetone were added. The residue was separated off by filtration and terephthalic acid dicyanide was obtained from the filtrate by fractional distillation.

reactant | terephthalic acid dichloride | 1 mol, 203 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | sodium cyanide | 1.94 mol, 97 g | [C-]#N.[Na+]
reactant | copper(I) cyanide | 5.4 g | [Cu]C#N
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | terephthalic acid dicyanide | C(C1=CC=C(C(=O)C#N)C=C1)(=O)C#N | C10H4N2O2
